US05028738
A 3N aqueous solution (5 ml) of sodium hydroxide and 10 ml of tetrahydrofuran were added to 0.89 g (5.0 mmoles) of p-methylphenylpyruvic acid, and the mixture was stirred until a completely uniform solution formed. Then, 50 mg of triethyl ammonium chloride, mg of potassium iodide and 0.7 ml (6 mmoles) of 1,4-dibromobutane were added, and the mixture reacted at room temperature for 48 hours. The reaction mixture was acidified with 1N hydrochloric acid and extracted with ether. The ether layer was dried over magnesium sulfate. The drying reagent was separated by filtration, and the solvent was evaporated. The NMR spectral analysis of the resulting oil to the determination that 1-carboxycarbonyl-p-methylphenylcyclopentane formed in a yield of 77 %.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-methylphenylpyruvic acid | 5.0 mmoles, 0.89 g | CC1=CC=C(C=C1)CC(C(=O)O)=O | C10H10O3
reactant | triethyl ammonium chloride | 50 mg | [Cl-].C(C)[NH+](CC)CC
reactant | potassium iodide | [I-].[K+]
reactant | 1,4-dibromobutane | 6 mmoles, 0.7 ml | BrCCCCBr | C4H8Br2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-carboxycarbonyl-p-methylphenylcyclopentane | yield of 77 % | C(=O)(O)C(=O)C1(CC=C(C=C1)C)C1CCCC1 | C14H18O3
